US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.78 mmol), (prepared as described for the starting material in Example 24), 2-acetamido-4-chloromethylthiazole (164 mg, 0.86 mmol) and potassium carbonate (216 mg, 1.5 mmol) in DMF (5 ml) was stirred at 40° C. for 7 hours. The mixture was partitioned between ethyl acetate and water and the aqueous layer was adjusted to pH7 with 2M hydrochloric acid. The organic phase was washed with water, brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5). The purified solid was dissolved in a mixture of methylene chloride and methanol and a 5M solution of hydrogen chloride in isopropanol (1.0 ml) was added. The volatiles were removed by evaporation to give a solid, which was triturated with ether, collected by filtration and dried under vacuum to give 7-((2-acetamidothiazol-4-yl)methoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride (96 mg, 24%). m.p. 194-202° C.

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 250 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-acetamido-4-chloromethylthiazole | 0.86 mmol, 164 mg | C(C)(=O)NC=1SC=C(N1)CCl | C6H7ClN2OS
reactant | potassium carbonate | 1.5 mmol, 216 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 7-((2-acetamidothiazol-4-yl)methoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline hydrochloride | 96 mg, 24% | Cl.C(C)(=O)NC=1SC=C(N1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | InChI=1S/C21H17ClFN5O3S.ClH/c1-11(29)26-21-27-13(9-32-21)8-31-19-7-17-14(6-18(19)30-2)20(25-10-24-17)28-16-4-3-12(22)5-15(16)23;/h3-7,9-10H,8H2,1-2H3,(H,24,25,28)(H,26,27,29);1H
